US08222416B2
To a stirred solution of 2-(4-bromo-2-fluoro-phenyl)-propan-2-ol (18.5 g, 79.4 mmol) and 3,4-dihydro-2H-pyran (10.9 mL, 119.1 mmol) in dichloromethane (165 mL) was added pyridinium-p-toluene sulfonate (2 g, 7.91 mmol) at room temperature. The resulting mixture was stirred at room temperature for 12 h, extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo and the residue was purified by flash column chromatography (QingDao silica gel, 200-300 mesh, 25% ethyl acetate/hexanes) to afford 2-[1-(4-bromo-2-fluoro-phenyl)-1-methyl-ethoxy]-tetrahydro-pyran (9.7 g, 38.6%) as a light yellow oil.

reactant | 2-(4-bromo-2-fluoro-phenyl)-propan-2-ol | 79.4 mmol, 18.5 g | BrC1=CC(=C(C=C1)C(C)(C)O)F | C9H10BrFO
reactant | 3,4-dihydro-2H-pyran | 119.1 mmol, 10.9 mL | O1CCCC=C1 | C5H8O
reactant | pyridinium-p-toluene sulfonate | 7.91 mmol, 2 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 165 mL | ClCCl | CH2Cl2
product | 2-[1-(4-bromo-2-fluoro-phenyl)-1-methyl-ethoxy]-tetrahydro-pyran | 9.7 g, 38.6% | BrC1=CC(=C(C=C1)C(C)(OC1OCCCC1)C)F | C14H18BrFO2
